US04167570
6,11-Dihydro-11-(2-morpholino-ethyl)-2,4,6-trimethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one by method A
A mixture consisting of 5.06 gm of 6,11-dihydro-2, 4,6-trimethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one, 1.1 gm of 50% sodium hydride in mineral oil and 60 ml of dimethyl formamide was stirred at 80° C. for 1 hour. Then, 4.5 gm of 2-morpholino-ethyl chloride were added, and the mixture was stirred at 120° C. for 3.5 hours more. The precipitate formed thereby was suction-filtered off, the solvent was removed from the filtrate in vacuo, and the oily residue was purified on a silica gel column. The product was recrystallized from petroleum ether (b.p. 100°-140° C.), yielding 64% of theory of the compound named in the heading, which had a melting point of 133°-135° C.

reactant | 6,11-dihydro-2, 4,6-trimethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | 5.06 gm | CC=1C=C(C2=C(NC3=C(N(C2=O)C)C=CC=C3)N1)C | C15H15N3O
reactant | sodium hydride | 1.1 gm | [H-].[Na+]
reactant | 2-morpholino-ethyl chloride | 4.5 gm | O1CCN(CC1)CCCl | C6H12ClNO
solvent | dimethyl formamide | 60 ml | CN(C=O)C | C3H7NO
product | 6,11-Dihydro-11-(2-morpholino-ethyl)-2,4,6-trimethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | O1CCN(CC1)CCN1C2=C(C(N(C3=C1C=CC=C3)C)=O)C(=CC(=N2)C)C | C21H26N4O2
